US07465731B2
To a suspension of lithium aluminum hydride (70 mg, 1.8 mmol) in tetrahydrofuran (2 mL) was added a solution of ethyl 6-{[(3R)-1-benzyl-3-piperidinyl]amino}nicotinate (250 mg, 0.74 mmol) in tetrahydrofuran (5 mL) dropwise at 0° C. under nitrogen and the mixture was stirred at same temperature for 3 hrs. To the reaction mixture was added methanol and water dropwise at 0′ and the mixture was stirred for 1 h. The precipitate was removed by vacuum filtration and the filtrate was evaporated in vacuo. The residue was partitioned between water and ethyl acetate. The organic layer was separated, washed with brine, dried over magnesium sulfate, and evaporated in vacuo to give (6-{[(3R)-1-benzyl-3-piperidinyl]amino}-3-pyridinyl)methanol (219 mg, 100%) as an oil.

reactant | lithium aluminum hydride | 1.8 mmol, 70 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 6-{[(3R)-1-benzyl-3-piperidinyl]amino}nicotinate | 0.74 mmol, 250 mg | C(C1=CC=CC=C1)N1C[C@@H](CCC1)NC1=NC=C(C(=O)OCC)C=C1 | C20H25N3O2
reactant | methanol | CO | CH4O
reactant | water | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (6-{[(3R)-1-benzyl-3-piperidinyl]amino}-3-pyridinyl)methanol | 219 mg, 100% | C(C1=CC=CC=C1)N1C[C@@H](CCC1)NC1=CC=C(C=N1)CO | C18H23N3O
